US05977178
(2R)-2-Amino-3-(2-thienyl)propionic acid (5.00 g, 29.2 mmol) was dissolved in formic acid (50 ml). The solution was cooled to 0° C. Acetic acid anhydride (20 ml) was added dropwise. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was cooled to 0° C. Water (20 ml) was added dropwise. The solution was warmed to room temperature. The solvent was removed in vacuo. The residue was suspended in ethyl acetate (20 ml). The precipitation was filtered off, collected, and dried in vacuo, to give 3.60 g of crude (2R)-2-(formylamino)-3-(2-thienyl)propionic acid, which was used for the following step.

reactant | (2R)-2-Amino-3-(2-thienyl)propionic acid | 29.2 mmol, 5.00 g | N[C@@H](C(=O)O)CC=1SC=CC1 | C7H9NO2S
reactant | Acetic acid anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | 20 ml | O | H2O
solvent | formic acid | 50 ml | C(=O)O | CH2O2
product | (2R)-2-(formylamino)-3-(2-thienyl)propionic acid | 3.60 g | C(=O)N[C@@H](C(=O)O)CC=1SC=CC1 | C8H9NO3S
